US08071774B2
3′,4′,6,7-Tetrahydro-2′H,5H-spiro[imidazo[1,5-a]pyridine-8,1′-naphthalene]-7′-carbonitrile
An apparatus purified by baking is charged under argon with 1.160 mmol of 3′,4′,6,7-tetrahydro-2′H,5H-spiro[imidazo[1,5-a]pyridine-8,1′-naphthalen]-7′-yl trifluoromethanesulphonate together with 2.320 mmol zinc(II) cyanide in 15 ml of degassed N,N-dimethylformamide. 0.093 mmol of tetrakis(triphenylphosphine)palladium is added and the reaction mixture is stirred at 120° C. for 20 hours. The reaction mixture is cooled and poured into 100 ml of ice-water. It is extracted with ethyl acetate (3×). The combined organic phases are dried over magnesium sulphate and evaporated. From the residue the title compound is obtained by means of flash chromatography (SiO2 60F) as a white solid. Rf=0.165 (dichloromethane-2M ammonia in EtOH=95:5); Rt=5.64.

reactant | 3′,4′,6,7-tetrahydro-2′H,5H-spiro[imidazo[1,5-a]pyridine-8,1′-naphthalen]-7′-yl trifluoromethanesulphonate | 1.160 mmol | FC(S(=O)(=O)OC1=CC=C2CCCC3(C2=C1)C=1N(CCC3)C=NC1)(F)F | C17H17F3N2O3S
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
catalyst | zinc(II) cyanide | 2.320 mmol | [C-]#N.[Zn+2].[C-]#N
catalyst | tetrakis(triphenylphosphine)palladium | 0.093 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 3′,4′,6,7-Tetrahydro-2′H,5H-spiro[imidazo[1,5-a]pyridine-8,1′-naphthalene]-7′-carbonitrile | C12(CCCC3=CC=C(C=C13)C#N)C=1N(CCC2)C=NC1 | C17H17N3
